US07371777B2
Methyl 1-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxybenzoyl)-1-cyclopropanecarboxylate
Under a solution of 1.069 g of 1-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxybenzoyl)-1-cyclopropanecarboxylic acid in 10 ml of methanol was added 8 ml of trimethylsilyldiazomethane (2N solution in hexane). After stirring for 30 minutes, the solution was treated with acetic acid until its color faded, and then concentrated. The residue was purified by silica gel column chromatography, to give 0.974 g of the title compound as a colorless oil.

reactant | 1-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxybenzoyl)-1-cyclopropanecarboxylic acid | 1.069 g | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)C2(CC2)C(=O)O)C=CC1OC | C18H23NO6
reactant | trimethylsilyldiazomethane | 2N, 8 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | Methyl 1-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxybenzoyl)-1-cyclopropanecarboxylate | 0.974 g | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)C2(CC2)C(=O)OC)C=CC1OC | C19H25NO6
